US09168259B2
A solution of 2.2 g (8.76 mmol) 2,4-diisopropyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethylester in POCl3 (43.8 ml) was stirred at 120° C. for 2 h. Then excess POCl3 was evaporated. The residue was dissolved in EtOAc (60 ml) and the solution was washed with a sat. NaHCO3 sol, water and brine. The organic layer was dried over Na2SO4 and concentrated in vacuo. Purification of this residue by CC (hexane/EtOAc 97:3) provided 2.0 g (7.43 mmol, 85%) 6-chloro-2,4-diisopropyl-pyridine-3-carboxylic acid ethylester.

reactant | 2,4-diisopropyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethylester | 8.76 mmol, 2.2 g | C(C)OC(=O)C1=C(NC(C=C1C(C)C)=O)C(C)C | C14H21NO3
reactant | POCl3 | 43.8 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 6-chloro-2,4-diisopropyl-pyridine-3-carboxylic acid ethylester | 7.43 mmol, 2.0 g, 85% | C(C)OC(=O)C=1C(=NC(=CC1C(C)C)Cl)C(C)C | C14H20ClNO2
